US06255285B1
To a solution of 0.31 g (1.50 mmol) of 2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethylamine, 0.40 g (1.50 mmol) of Z-N-Me-Val-OH and 0.30 g (2.25 mmol) of HOBT in DMF (5 ml), 0.35 ml (2.25 mmol) of DIC was added under cooling with ice. After being stirred at room temperature for 2 hours, the reaction mixture was diluted with ethyl acetate and washed successively with saturated aqueous NaHCO3, water and saturated brine. The organic layer was dried with anhydrous magnesium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent; chloroform:methanol=125:1) to give 2-[N-(benzyloxycarbonyl)-N-methylamino]-N-[2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethyl]-3-methylbutanamide in the amount of 0.55 g (81%).

reactant | 2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethylamine | 1.50 mmol, 0.31 g | C(C)(C)(C)C=1C=C(C=CC1O)CC(C)N | C13H21NO
reactant | Z-N-Me-Val-OH | 1.50 mmol, 0.40 g | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)O)C | C14H19NO4
reactant | HOBT | 2.25 mmol, 0.30 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIC | 2.25 mmol, 0.35 ml | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[N-(benzyloxycarbonyl)-N-methylamino]-N-[2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethyl]-3-methylbutanamide | C(C1=CC=CC=C1)OC(=O)N(C)C(C(=O)NC(CC1=CC(=C(C=C1)O)C(C)(C)C)C)C(C)C | C27H38N2O4
